US04057516
Preparation of 8-allyl-8-hydroxytricyclo [5,2,1,02,6 ] decane.
In a one litre reaction vessel, equipped with a stirrer, a cooler and a dropping funnel, 26.4 g magnesium, 100 g tetrahydrofurane and 1 g allyl chloride were heated to about 40° C. to start the reaction. A mixture of 76.5 g allyl chloride, 250 g tetrahydrofurane and 150 g tricyclo [5,2,1,02,6 ] decan-8-one was added in four hours, keeping the temperature at 35°-40° C. The reaction mixture was stirred for an additional 30 minutes and subsequently poured into a mixture of 600 g of ice and 80 g of acetic acid. The layers were separated and the water layer extracted twice with toluene. The combined organic layers were washed with 5% soda solution until alkaline and subsequently with water until neutral. The organic solvent was removed by distillation under reduced pressure. The residue was distilled on a Vigreux head at 2 mm.Hg. The fraction boiling between 93° and 95° C. was collected. Yield: 80%, nD20 : 1.5154.

reactant | magnesium | 26.4 g | [Mg] | Mg
reactant | tetrahydrofurane | 100 g | O1CCCC1 | C4H8O
reactant | allyl chloride | 1 g | C(C=C)Cl | C3H5Cl
reactant | allyl chloride | 76.5 g | C(C=C)Cl | C3H5Cl
reactant | tetrahydrofurane | 250 g | O1CCCC1 | C4H8O
reactant | tricyclo [5,2,1,02,6 ] decan-8-one | 150 g | C12C3CCCC3C(C(C1)=O)C2 | C10H14O
solvent | acetic acid | 80 g | C(C)(=O)O | C2H4O2
product | 8-allyl-8-hydroxytricyclo [5,2,1,02,6 ] decane | Yield: 80% | C(C=C)C1(C2C3CCCC3C(C1)C2)O | C13H20O
